US06875771B2
N-(3-Benzenesulfonyl-2-methylsulfanyl-pyrido[1,2-a]pyrimidin-4-ylidene)-acetamide
3-Benzenesulfonyl-2-methylsulfanyl-pyrido[1,2-a]pyrimidin-4-ylideneamine (100 mg, 0.30 mmol) was dissolved in anhydrous methylenechloride (2 ml) to which pyridine (48 mg, 0.6 mmol) was added. Acetylchloride was then added at room temperature and the reaction mixture was stirred overnight. The reaction was quenched with saturated aqueous NaHCO3, extracted with methylene chloride, and purified by flash chromatography to yield 79 mg of a yellow solid product.

reactant | 3-Benzenesulfonyl-2-methylsulfanyl-pyrido[1,2-a]pyrimidin-4-ylideneamine | 0.30 mmol, 100 mg | C1(=CC=CC=C1)S(=O)(=O)C1=C(N=C2N(C1=N)C=CC=C2)SC | C15H13N3O2S2
reactant | pyridine | 0.6 mmol, 48 mg | N1=CC=CC=C1 | C5H5N
reactant | Acetylchloride | C(C)(=O)Cl | C2H3ClO
solvent | methylenechloride | 2 ml | C(Cl)Cl | CH2Cl2
product | N-(3-Benzenesulfonyl-2-methylsulfanyl-pyrido[1,2-a]pyrimidin-4-ylidene)-acetamide | 79 mg | C1(=CC=CC=C1)S(=O)(=O)C1=C(N=C2N(C1=NC(C)=O)C=CC=C2)SC | C17H15N3O3S2
